US06548493B1
(±)-cis-10-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound (0.15 g, 32%) was prepared by the general method of Example 402 from (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (0.25 g, 1.2 mmol), 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole (0.43 g, 2.0 mmol), KI (catalytic) and K2CO3 (0.28 g, 2.0 mmol) after chromatographic purification as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ1.80-2.18 (m, 7H), 2.25 (td, J=11.5, 3.0 Hz, 1H), 2.35-2.68 (m, 4H), 2.70 (t, J=6.6 Hz, 2H), 2.75-2.88 (m, 1H), 3.01 (t, J=7.6 Hz, 2H), 3.05-3.15 (m, 1H), 3.20-3.30 (m, 2H), 6.62 (t, J=7.5 Hz, 1H), 6.86 (d, J=7.5 Hz, 1H), 6.92 (d, J=7.5 Hz, 1H), 7.06 (td, J=9.0, 2.1 Hz, 1H), 7.20-7.26 (m, 1H), 7.61 (dd, J=4.8, 8.7 Hz, 1H) ppm.

reactant | (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.2 mmol, 0.25 g | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCNC1 | C14H18N2
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 2.0 mmol, 0.43 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | K2CO3 | 2.0 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
product | (±)-cis-10-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.15 g, 32% | FC1=CC2=C(C(=NO2)CCCN2C[C@H]3[C@H](N4CCCC5=CC=CC3=C45)CC2)C=C1 | C24H26FN3O
